US05849757
Ethyl hydrogen (1-benzyloxycarbonyl-3-azetidinyl)malonate
To 13.43 g (38.33 mmol) of diethyl (1-benzyloxycarbonyl-3-azetidinyl)malonate dissolved in 130 ml of ethanol was added 38.44 ml of 1N potassium hydroxide ethanol solution, followed by overnight stirring at room temperature. After evaporation of the solvent, the resulting residue was mixed with 10% citric acid aqueous solution, extracted with chloroform (200 ml×3) and then dried over anhydrous sodium sulfate. By evaporating the solvent, quantitative amount of the title compound was obtained.

reactant | diethyl (1-benzyloxycarbonyl-3-azetidinyl)malonate | 38.33 mmol, 13.43 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(C(=O)OCC)C(=O)OCC | C18H23NO6
reactant | potassium hydroxide ethanol | 1N, 38.44 ml | C(C)O.[OH-].[K+]
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | Ethyl hydrogen (1-benzyloxycarbonyl-3-azetidinyl)malonate | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(C(=O)OCC)C(=O)O | C16H19NO6
